US04001426
To a mixture of 1.6 g. (0.04 mol.) of sodium hydroxide and 3.7 g. (0.012 mol.) of 3-benzoyl-2-p-hydroxyphenylbenzofuran was added with stirring 10.2 g. (0.11 mol.) of epichlorohydrin. The reaction mixture was refluxed for 1.5 hours, then it was cooled and extracted with methylene chloride. The extract was dried (MgSO4) and concentrated to give a residue which, after chromatography, gave 3-benzoyl-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran.

reactant | sodium hydroxide | 0.04 mol | [OH-].[Na+]
reactant | 3-benzoyl-2-p-hydroxyphenylbenzofuran | 0.012 mol | C(C1=CC=CC=C1)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)O | C21H14O3
reactant | epichlorohydrin | 0.11 mol | C(Cl)C1CO1 | C3H5ClO
product | 3-benzoyl-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran | C(C1=CC=CC=C1)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)OCC2CO2 | C24H18O4
